US08980934B2
N-(3-(4-(2-oxa-6-azaspiro[3.3]heptan-6-yl)phenyl)-1H-indazol-5-yl)-2-(pyrrolidin-1-yl)-2-(thiophen-3-yl)acetamide
The title compound was synthesized according to General Method C1 by utilizing N-(3-iodo-1H-indazol-5-yl)-2-(pyrrolidin-1-yl)-2-(thiophen-3-yl)acetamide (200 mg, 0.45 mmol), 6-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-oxa-6-azaspiro[3.3]heptane (160 mg, 0.53 mmol), PdCl2dppf.DCM (36 mg, 0.044 mmol) and 2 M aq Na2CO3 (0.5 mL) in PhMe/EtOH (12 mL, 2:1 mixture). The reaction mixture was heated under microwave irradiation at 130° C. for 3 h. The reaction mixture was diluted with EtOAc (10 mL) and washed with H2O (5 mL), dried (MgSO4) and concentrated under vacuum to give a crude product. Purification by flash chromatography (Biotage Isolera, 50 g HP-SIL, 100% EtOAc then 0-10% DCM in MeOH) followed by trituration with MeOH gave the title compound as a light brown solid (46 mg, 18%). 1H NMR (400 MHz, CDCl3) δ ppm 9.21 (br. s., 1H), 8.38 (s, 1H), 7.83 (d, J=8.0 Hz, 2H), 7.48 (d, J=9.0 Hz, 1H), 7.42 (d, J=8.8 Hz, 1H), 7.29-7.36 (m, 2H), 7.15 (d, J=4.8 Hz, 1H), 6.58 (d, J=8.3 Hz, 2H), 4.87 (s, 4H), 4.15 (s, 1H), 4.09 (s, 4H), 2.61-2.75 (m, 2H), 2.47-2.60 (m, 2H), 1.76-1.92 (m, 4H); MS ESI 500.3 [M+H]+, calcd for [C28H29N5O2S+H]+ 500.2.

reactant | N-(3-iodo-1H-indazol-5-yl)-2-(pyrrolidin-1-yl)-2-(thiophen-3-yl)acetamide | 0.45 mmol, 200 mg | IC1=NNC2=CC=C(C=C12)NC(C(C1=CSC=C1)N1CCCC1)=O | C17H17IN4OS
reactant | 6-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-oxa-6-azaspiro[3.3]heptane | 0.53 mmol, 160 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CC2(COC2)C1)C | C17H24BNO3
reactant | DCM | 0.044 mmol, 36 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 2 M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | PhMe EtOH | 12 mL | C1(=CC=CC=C1)C.CCO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-(3-(4-(2-oxa-6-azaspiro[3.3]heptan-6-yl)phenyl)-1H-indazol-5-yl)-2-(pyrrolidin-1-yl)-2-(thiophen-3-yl)acetamide | C1OCC12CN(C2)C2=CC=C(C=C2)C2=NNC1=CC=C(C=C21)NC(C(C2=CSC=C2)N2CCCC2)=O | C28H29N5O2S
